US04425333
(2S)-N-[(2R,4R)-[3-(S-Acetyl-3-mercaptopropanoyl)-2-(2-hydroxyphenyl)-4-thiazolidinyl]carbonyl]leucine
The suspension of mixed anhydride in THF is prepared by using 1.78 g of (2R,4R)-3-(S-acetyl-3-mercaptopropanoyl)-2-(2-hydroxyphenyl)-4-thiazolidinecarboxylic acid, 0.51 g of N-methylmorpholine and 0.68 g of isobutyl chlorocarbonate. To the suspension the aqueous solution of 1.31 g of L-leucine and 1.0 g of triethylamine is added, and treated in the same manner as Example 1 to give 1.8 g (77%) of the titled compound.

reactant | (2R,4R)-3-(S-acetyl-3-mercaptopropanoyl)-2-(2-hydroxyphenyl)-4-thiazolidinecarboxylic acid | 1.78 g | C(C)(=O)SCCC(=O)N1[C@H](SC[C@H]1C(=O)O)C1=C(C=CC=C1)O | C15H17NO5S2
reactant | N-methylmorpholine | 0.51 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chlorocarbonate | 0.68 g | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | L-leucine | 1.31 g | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
solvent | THF | C1CCOC1 | C4H8O
solvent | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
product | (2S)-N-[(2R,4R)-[3-(S-Acetyl-3-mercaptopropanoyl)-2-(2-hydroxyphenyl)-4-thiazolidinyl]carbonyl]leucine | 1.8 g, 77% | C(C)(=O)SCCC(=O)N1[C@H](SC[C@H]1C(=O)N[C@@H](CC(C)C)C(=O)O)C1=C(C=CC=C1)O | C21H28N2O6S2
